US08309581B2
b) 4-[2-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenylethynyl]-benzonitrile
The title compound was prepared in analogy to Example 72, intermediate a, from 2-(2-bromo-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole and 4-ethynyl-benzonitrile (CAS Reg. No. 3032-92-6). Off-white powder (30%). MS (Turbo Spray): m/z=452.4 (M+H).

reactant | 2-(2-bromo-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | BrC1=C(C=CC=C1)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19BrF2N2
reactant | 4-ethynyl-benzonitrile | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
product | 4-[2-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenylethynyl]-benzonitrile | C1(CCCCC1)CN1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=CC=C2)C#CC2=CC=C(C#N)C=C2 | C29H23F2N3
